US06248738B1
A mixture of 7-bromo-1,4-dichloroisoquinoline (276 mg, 1.0 mmol), tetrakis(triphenylphosphine)palladium(0) (60 mg, 5 mol %), 4-methyphenylboronic acid (137 mg, 1.00 mmol), and aqueous Na2CO3 (2.0 mL, 1.0 M, 2.0 mmol) in DME (6 mL) was heated at reflux under N2 for 20 h. The mixture was diluted with EtOAc (100 mL), washed with water (30 mL), dried over MgSO4 and evaporated in vacuo. The residue was purified by column chromatography upon silica gel using hexanes-EtOAc (99:1 to 97:3) as eluant to give 1,4-dichloro-7-(4-methylphenyl)isoquinoline (139 mg, 0.48 mmol) as a solid.

reactant | 7-bromo-1,4-dichloroisoquinoline | 1.0 mmol, 276 mg | BrC1=CC=C2C(=CN=C(C2=C1)Cl)Cl | C9H4BrCl2N
reactant | 4-methyphenylboronic acid | 1.00 mmol, 137 mg | CC1=CC=C(C=C1)B(O)O | C7H9BO2
reactant | Na2CO3 | 2.0 mmol, 1.0 M, 2.0 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 6 mL | COCCOC | C4H10O2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 60 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1,4-dichloro-7-(4-methylphenyl)isoquinoline | 0.48 mmol, 139 mg | ClC1=NC=C(C2=CC=C(C=C12)C1=CC=C(C=C1)C)Cl | C16H11Cl2N
